US05631279
To a solution of 0.42 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydro-4,5-isoindolediol in 10 cm3 of dichloromethane is added 0.21 cm3 of diisopropylethylamine, followed by 0.23 g of 2-naphthylacetyl chloride in 5.5 cm3 of dichloromethane. After stirring at room temperature for 1 hour, 25 cm3 of water are added. The organic phase is separated off after settling, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is taken up in 50 cm3 of ethyl acetate, 3 cm3 of 1N aqueous hydrochloric acid and 40 cm3 of water. The organic phase is separated off after settling, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The solid obtained is crystallized a first time in 5 cm3 of 2-propanol and then a second time in 5 cm3 of isopropyl ether. 0.3 g of (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-naphthyl)acetyl]perhydro-4,5-isoindolediol is obtained, melting at 188°-190° C.

reactant | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)perhydro-4,5-isoindolediol | 0.42 g | C1(=CC=CC=C1)C1(CC(C(C2CNCC12)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C27H29NO3
reactant | diisopropylethylamine | 0.21 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-naphthylacetyl chloride | 0.23 g | C1=C(C=CC2=CC=CC=C12)CC(=O)Cl | C12H9ClO
reactant | water | 25 cm3 | O | H2O
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 5.5 cm3 | ClCCl | CH2Cl2
product | (3aRS,4RS,5RS,7aRS)-7,7-diphenyl-4-(2-methoxyphenyl)-2-[(2-naphthyl)acetyl]perhydro-4,5-isoindolediol | 0.3 g | C1(=CC=CC=C1)C1(CC(C(C2CN(CC12)C(CC1=CC2=CC=CC=C2C=C1)=O)(O)C1=C(C=CC=C1)OC)O)C1=CC=CC=C1 | C39H37NO4
